US07834051B2
2-chloro-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile
Using 4-bromo-2-chlorobenzonitrile (199 mg), 3,3,5-trimethylpyrrolidine-2,4-dione (100 mg), cesium carbonate (346 mg), tris(dibenzylideneacetone)dipalladium(0) (65 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (82 mg), and in the same manner as in Reference Example 3, the title compound was obtained as a colorless solid (yield: 135 mg, 69%).

reactant | 4-bromo-2-chlorobenzonitrile | 199 mg | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | 3,3,5-trimethylpyrrolidine-2,4-dione | 100 mg | CC1(C(NC(C1=O)C)=O)C | C7H11NO2
reactant | cesium carbonate | 346 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 82 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 65 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-chloro-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile | ClC1=C(C#N)C=CC(=C1)N1C(C(C(C1C)=O)(C)C)=O | C14H13ClN2O2
